** FAN7081 
*******************************************************************************
** Created by W. R. Newberry
** May 1, 2008
**
** Fairchild Semiconductor, South Portland, Maine
*******************************************************************************
*$
.subckt FAN7081 COM HO IN VB VCC VS
.PARAM  uv_dif={uv_h - uv_ave} uv_ave={(uv_h + uv_l)/2} in_delay=80n vth=3.3
+  rh=1.25k uv_h=8.6 rl=1.1k uv_delay=750n uv_l=8.3
C_C6         N988590 0  500f  
C_C1         N989462 0  10p  
M_M1         HO HG VB VB PMOSout  
+ L=3.8u  
+ W=50u  
+ AD=555p  
+ AS=0  
+ PD=26u  
+ PS=0  
+ NRD=0.123  
+ NRS=0.033    
+ M=40
R_R7         N989486 N989894  100  
E_ABM8         N989252 0 VALUE { IF (V(VCC) > V(N989486), 5, -5)    }
R_R18         VS VB  652k  
T_T1         N9888640 0 N988630 0 Z0=1000 TD={IN_Delay}  
C_C3         N989486 0  10p  
R_R17         N988360 N988542  100  
E_LIMIT1         UV 0 VALUE {LIMIT(V(N989398),0,5)}
R_R3         0 IN_A  100MEG  
R_R9         N988630 0  1k  
V_V5         N989602 0 {UV_DIF}
E_ABM1         N989036 0 VALUE { IF (V(N988180) >{VTH},V(N988630), 0)    }
V_V6         N989630 0 {UV_AVE}
M_M2         HO LG VS VS NMOSout  
+ L=3.8u  
+ W=50u  
+ AD=555p  
+ AS=0  
+ PD=26u   
+ NRD=0.123  
+ NRS=0.033    
+ M=46
C_C5         N988360 0  10p  
E_E3         VIN_L 0 VCC COM 0.4
X_S4    N988590 0 N988658 VS FAN7081_S4 
E_ABM10         VIN_DIF 0 VALUE { ( V(VIN_H) - V(VIN_AVE))    }
V_V7         N988416 0 {UV_DIF}
E_E1         N9888640 0 IN_A 0 1
T_T3         N9882140 0 N988180 0 Z0=1000 TD={UV_Delay}  
R_R12         0 N988180  1k  
X_S3    N988590 0 VB N988658 FAN7081_S3 
E_ABM11         N988542 0 VALUE { IF( V(N988368)>{VTH}, V(N988456) -
+  V(N988416), V(N988456)+V(N988416))    }
R_R16         LG N988658  {RL}  
E_E5         N9882140 0 UV 0 1
E_ABM7         N989894 0 VALUE { IF( V(N989252)>{VTH}, V(N989630) - V(N989602),
+  V(N989630)+V(N989602))    }
E_SUM1         N989398 0 VALUE {V(N989252)+V(N988368)}
E_ABM2         N990340 0 VALUE { IF( V(IN_A)>{VTH}, V(VIN_AVE) - V(VIN_DIF),
+  V(VIN_DIF)+V(VIN_AVE))    }
E_ABM12         N988368 0 VALUE { IF (V(VB) > V(N988360), 5, -5)    }
X_S2    N988590 0 N988834 VS FAN7081_S2 
R_R19         N988590 N989036  11k  
R_R10         COM VCC  600k  
E_ABM9         VIN_AVE 0 VALUE { ( V(VIN_H)  
+ +V(VIN_L) ) / 2.0   }
R_R15         HG N988834  {RH}  
R_R4         0 UV  100MEG  
R_R8         IN VCC  882k  
V_V8         N988456 0 {UV_AVE}
R_R2         N989462 N990340  100  
X_S1    N988590 0 VB N988834 FAN7081_S1 
E_ABM3         IN_A 0 VALUE { IF (V(IN) > V(N989462), 5, 0)    }
E_E2         VIN_H 0 VCC COM 0.6

*$
**********************************************************************

.subckt FAN7081_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e8 Ron=1m Voff=0.5V Von=1.5V
.ends FAN7081_S4

.subckt FAN7081_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1000 Ron=1e8 Voff=0.5V Von=1.5V
.ends FAN7081_S3

.subckt FAN7081_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e8 Ron=1m Voff=2.5V Von=3.5V
.ends FAN7081_S2

.subckt FAN7081_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1m Ron=1e8 Voff=2.5V Von=3.5V
.ends FAN7081_S1
*$
*$
.model NMOSout nmos level=7
+ tnom=25                   tox=5e-8                  rsh=1
+ xj=1.07662e-6             nch=9.28825e16            vth0=1.13622
+ k1=0.0281109              k2=0                      k3=44.6684
+ k3b=2.2                   w0=9.96841e-6             nlx=1.59499e-7
+ dvt0w=0.095               dvt1w=0                   dvt2w=-0.0451571
+ dvt0=0                    dvt1=0.34                 dvt2=-0.0464202
+ vbm=-5                    u0=585.08                 ua=6.39555e-10
+ ub=5e-18                  uc=2.23417e-11            vsat=3.36e4
+ a0=2.16                   ags=46.4                  b0=-0.0202835
+ b1=2.56065e-3             keta=-0.0208347           a1=0
+ a2=1                      rdsw=8.24014e3            prwg=-6.20328e-3
+ prwb=0.0157543            wr=1                      wint=6.79435e-7
+ lint=5.44213e-7           xl=0                      xw=0
+ dwg=3.09663e-8            dwb=8.04177e-8            voff=-1.04093e-4
+ nfactor=0.67914           cit=0                     cdsc=0
+ cdscd=0                   cdscb=0                   eta0=1.5e-4
+ etab=0                    dsub=0.1                  pclm=1e-5
+ pdiblc1=8.4e-4            pdiblc2=1e-5              pdiblcb=-1e-4
+ drout=0.118444            pscbe1=3.4621e8           pscbe2=1.76742e-6
+ pvag=0                    delta=0.0290512           n=1
+ js=4.932049e-07           mobmod=1                  prt=4.66709e3
+ ute=-1.86447              kt1=-0.641312             kt1l=-1e-7
+ kt2=0                     ua1=5.52586e-10           ub1=8.57759e-18
+ uc1=-7.05855e-11          at=3.1282e4               wl=0
+ wln=1                     ww=0                      wwn=1
+ wwl=0                     ll=0                      lln=1
+ lw=0                      lwn=1                     lwl=0
+ capmod=2                  cgdo=1.13431e-9           cgso=5.5037e-10
+ cgbo=0                    fc=0.5                    cj=2.09117e-4
+ pb=0.605272               mj=0.344054               cjsw=4.10568e-10
+ pbsw=0.52917              mjsw=0.345765   
+ noff=1
+ acde=1                    moin=15   
+ tcjswg=0                  prdsw=-9.09372e3          la0=-4.99366
+ lags=0.0869499            pvsat=6e4                 wbeta0=39
+ lbeta0=194                lat=-1.26066e5            wprt=-6.86456e4
+ pprt=1.67501e5
*****************************
*$
.model PMOSout pmos level=7
+ tnom=25                   tox=5e-8                  rsh=1
+ xj=1.21226e-7             nch=1.1002e16             vth0=-1.13783
+ k1=0.96157                k2=-3.98041e-5            k3=28.6035271
+ k3b=0                     w0=1e-6                   nlx=1.36759e-7
+ dvt0w=0.2                 dvt1w=0                   dvt2w=-0.032
+ dvt0=9.15173e-3           dvt1=0                    dvt2=0
+ u0=213.897                ua=1.1129e-8              ub=1e-21
+ uc=1e-8                   vsat=1.94904e4            a0=0.0431384
+ ags=12.9613976            b0=3.692352e-6            b1=-4.04893e-10
+ keta=-0.0241713           a1=0                      a2=1
+ rdsw=8.34748e3            prwg=6.98895e-6           prwb=0
+ wr=1                      wint=2.91831e-6           lint=1.14797e-6
+ xl=0                      xw=0                      dwg=-2.07302e-7
+ dwb=0                     voff=-0.014092            nfactor=1.16072
+ cit=0                     cdsc=0                    cdscd=0
+ cdscb=0                   eta0=0                    etab=-1.984348e-4
+ dsub=1                    pclm=3.0616299            pdiblc1=0.0115106
+ pdiblc2=2.33234e-3        pdiblcb=-9.725991e-7      drout=0.2304991
+ pscbe1=1.996e9            pscbe2=8.3085e-5          pvag=0
+ delta=1e-3                n=1                       js=2.95216e-6
+ mobmod=1                  prt=-0.0948683            ute=-1.9455528
+ kt1=-0.6141856            kt1l=-1e-7                kt2=0
+ ua1=3.128356e-12          ub1=-5.60828e-17          uc1=-3.04095e-11
+ at=1.690647e4             nqsmod=0                  wl=0
+ wln=1                     ww=0                      wwn=1
+ wwl=0                     ll=0                      lln=1
+ lw=0                      lwn=1                     lwl=0
+ capmod=2                  cgdo=7.62994e-10          cgso=3.86699e-10
+ cgbo=0                    fc=0.5                    cj=1.67819e-4
+ pb=0.590742               mj=0.354919               cjsw=3.8335e-10
+ pbsw=0.428283             mjsw=0.297076 
+ noff=1                    acde=1                    moin=15                  
.ends FAN7081

