*ZETEX FMMT417 Spice Model v2.0 Last Revised 23/03/07
    *
    .SUBCKT FMMT417 16 15 14
    *Pins______________C__B__E
    Q_Q1          9  8  7 QMOD_1
    R_R1          5  6  100  
    R_R2          5  4  100
    R_R3          12  3  100  
    R_R4          3  1  500  
    R_R5          10  2  2k  
    R_R6          10  11  2
    D_D1          10  5 DZ20
    D_D2          4  2 DZ500
    D_D3          10  3 DZ200
    D_D4          1  2 DZ500
    D_D5          7  9 DZ350
    C_C1          10  2  20p  
    S_S1         13  11  2  10  SMOD1 
    S_S2          9  13  2  10  SMOD2 
    S_S3          8  10  2  10  SMOD3 
    V_H1          7  10  0
    H1 6 10  V_H1 50 
    E1 12 10 11 10 10
    L_L1          9  16  1nH  
    L_L2          15  8  2nH  
    L_L3          10  14  2nH  
    .model QMOD_1 NPN IS =3E-14 NF =1 BF =110 IKF=0.4
    +VAF=1900 ISE=1E-12 NE =1.6
    +NR =1 BR =7 IKR=0.2 VAR=75 ISC=1e-10 NC =1.9
    +RB =0.4 RE =0.1 RC =0.1
    +CJC=10.9E-12 MJC=0.347 VJC=0.476 CJE=82.6E-12
    +TF =1.3E-9 TR =2.3e-7
    .model DZ20 D Is=1E-15  Bv=20 Ibv=100u
    .model DZ200 D Is=1E-15  Bv=200 Ibv=100u
    .model DZ350 D Is=1E-15 Rs=0.1 Bv=350 Ibv=100u
    .model DZ500 D Is=1E-15 N=10 Bv=500 Ibv=100u
    .model SMOD1 VSWITCH Roff=1e10 Ron=0.1 Voff=4.3 Von=4.6
    .model SMOD2 VSWITCH Roff=1e3 Ron=1.0 Voff=4.5 Von=9
    .model SMOD3 VSWITCH Roff=1e10 Ron=0.1 Voff=20 Von=25
    .ENDS FMMT417
    *
    *$
    *